US07645776B2
3-(5-Oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzonitrile
g of 3-Aminobenzonitril were dissolved in 20 ml MeOH. 1.8 ml of trimethyl orthoformate, hydrazinecarboxylic acid methyl ester and cat. para-toluenesulfonic acid were added. The reaction mixture was heated to 65° C. for 3 h. The suspension was cooled to rt and 9 ml of NaOMe solution were added and the reaction mixture stirred at rt for 2 h. Water was added and the pH adjusted to 1 using aq. HCl (25%). The resulting suspension was filtered off and dried under vacuum. MS(ISO): 187.2 (MH+)

reactant | 3-Aminobenzonitril | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | trimethyl orthoformate | 1.8 ml | C(OC)(OC)OC | C4H10O3
reactant | hydrazinecarboxylic acid methyl ester | COC(=O)NN | C2H6N2O2
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaOMe | 9 ml | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 20 ml | CO | CH4O
solvent | Water | O | H2O
product | 3-(5-Oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzonitrile | O=C1N(C=NN1)C=1C=C(C#N)C=CC1 | C9H6N4O
